US08735440B2
Step 2. 1-(mesityloxy)-3-(pyridin-2-yloxy)propan-2-ol
2-Mesitylenesulfonyl chloride (120.8 mg, 0.55 mmol), Bu2SnO (63.1 mg, 0.25 mmol), DMAP (61.9 mg, 0.51 mmol) and Et3N (1 mL) were added to a solution of 3-(pyridin-2-yloxy)propane-1,2-diol (83.7 mg, 0.50 mmol) in toluene (5 mL). The reaction mixture was stirred at room temperature for 2 h. Following the addition of water, the mixture was extracted with CH2Cl2. The organic layers were dried with Na2SO4, and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography to give the title product (123.9 mg, 71%).

reactant | 2-Mesitylenesulfonyl chloride | 0.55 mmol, 120.8 mg | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | Et3N | 1 mL | CCN(CC)CC | C6H15N
reactant | 3-(pyridin-2-yloxy)propane-1,2-diol | 0.50 mmol, 83.7 mg | N1=C(C=CC=C1)OCC(CO)O | C8H11NO3
reactant | water | O | H2O
catalyst | DMAP | 0.51 mmol, 61.9 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(mesityloxy)-3-(pyridin-2-yloxy)propan-2-ol | 123.9 mg, 71% | C1(=C(C(=CC(=C1)C)C)OCC(COC1=NC=CC=C1)O)C | C17H21NO3
